US07049312B1
Synthesis of 2-[(6-Methoxycarbonylindol-3-yl)methylene]-2H-1,4-benzoxazin-3(4H)-one
Sodium methoxide (1 g, 0.018 mol) was added in one portion to a mixture of 2-diethylphosphonyl-2H-1,4-benzoxazin-3(4H)-one (3.42 g, 0.012 mol) and 6-methoxycarbonylindol-3-carboxaldehyde (2.55 g, 0.012 mol) in methanol (60 ml). The reaction mixture was refluxed for 21 h, then cooled at room temperature and the precipitated solid was collected by filtration, washed with methanol and dried. Yield 2.78 g (87%) as a mixture of isomers.

reactant | Sodium methoxide | 0.018 mol, 1 g | C[O-].[Na+]
reactant | 6-methoxycarbonylindol-3-carboxaldehyde | 0.012 mol, 2.55 g | COC(=O)C1=CC=C2C(=CNC2=C1)C=O | C11H9NO3
reactant | methanol | 60 ml | CO | CH4O
product | 2-[(6-Methoxycarbonylindol-3-yl)methylene]-2H-1,4-benzoxazin-3(4H)-one | COC(=O)C1=CC=C2C(=CNC2=C1)C=C1OC2=C(NC1=O)C=CC=C2 | C19H14N2O4
